US05556863
Preparation of 3-butyl-4-(2-methylphenylamino)-8(3-methylsulfinylpropoxy)quinoline.
3-butyryl-4-(2-methylphenylamino)-8-(3-methylthiopropoxy)quinoline (0.33 g, 0.8 mmol) was dissolved in methylene chloride (15 ml), 5 ml water was added and then a solution of 1.5 ml (1.09 mmol) of 5% NaOCl in 10 ml methylene chloride was added. The mixture was stirred for 4 h at room temperature. The organic phase was separated and evaporated. Chromatography with methylene chloride: methanol 95:5 as the eluent gave 0.18 g (53%) of the title compound.

reactant | 3-butyryl-4-(2-methylphenylamino)-8-(3-methylthiopropoxy)quinoline | 0.8 mmol, 0.33 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCSC | C24H28N2O2S
reactant | water | 5 ml | O | H2O
reactant | NaOCl | 1.09 mmol, 1.5 ml | [O-]Cl.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-butyl-4-(2-methylphenylamino)-8(3-methylsulfinylpropoxy)quinoline | 0.18 g, 53% | C(CCC)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCS(=O)C | C24H30N2O2S
